US06413938B1
4,5-Dichloro-1-(5deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
4,5-Dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine (0.82 g, 1.8 mmol) was dissolved in 1,4dioxane (Aldrich, 20 mL). Aqueous lithium hydroxide (5.5 mL, 1.0 M, 5.5 mmol) was added and the mixture was stirred for 30 min. The solution was then diluted with brine (50 mL) and extracted with ethyl acetate (3×50 mL). The organic layers were dried over magnesium sulfate, filtered, and evaporated. The crude residue was purified on a silica gel column (5×20 cm, 230-400 mesh) with 96:4 dichloromethane-methanol to give the title compound (0.48 g, 1.3 mmol, 72%); MS (AP+): m/z 360 (M+1); 1H NMR (DMSO-d6) δ: 7.11 (d, 1H, Ar—H, J=8.7 Hz), 7.04 (d, 1H, Ar—H, J=8.4 Hz), 6.75 (d, 1H, NH, J=7.5 Hz), 5.70 (d, 1H, H-1′, J=6.3 Hz), 5.27 (d, 1H, OH, J=6.6 Hz), 5.22 (d, 1H, OH, J=4.8 Hz), 4.28-4.35 (m, 1H, CH), 4.05-4.16 (m, 1H, CH), 3.77-3.92 (m, 2H, CH), 1.35 (d, 3H, 5′-CH3, J=6.6 Hz), 1.22 (d, 6H, CH3, J=6.6 Hz).

reactant | 4,5-Dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 1.8 mmol, 0.82 g | ClC1=C(C=CC=2N(C(=NC21)NC(C)C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)Cl | C19H23Cl2N3O5
reactant | lithium hydroxide | 5.5 mmol, 1.0 M, 5.5 mL | [OH-].[Li+]
solvent | 1,4dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 4,5-Dichloro-1-(5deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 1.3 mmol, 0.48 g, 72% | ClC1=C(C=CC=2N(C(=NC21)NC(C)C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)Cl | C15H19Cl2N3O3
